US03966773
Preparation of 2-(6-carbethoxyheptyl)-2-cyclopentenone
Esterification with ethanol of the acid chloride derived from 2-(6-carboxyheptyl)-2-cyclopentenone in the manner of Example 31 is productive of the subject compound.

reactant | 2-(6-carboxyheptyl)-2-cyclopentenone | C(=O)(O)C(CCCCCC=1C(CCC1)=O)C | C13H20O3
reactant | ethanol | C(C)O | C2H6O
product | 2-(6-carbethoxyheptyl)-2-cyclopentenone | C(=O)(OCC)C(CCCCCC=1C(CCC1)=O)C | C15H24O3
